US04082843
3-(3-hydroxy-2-methylbenzoyl)propionic acid was cydised with hydrazine hydrate in a similar manner to that described in Example 3 (i) to give 6-(3-hydroxy-2-methylphenyl)-4,5-dihydro-3(2H)-pyridazinone.

reactant | 3-(3-hydroxy-2-methylbenzoyl)propionic acid | OC=1C(=C(C(=O)CCC(=O)O)C=CC1)C | C11H12O4
reactant | hydrazine hydrate | O.NN
product | 6-(3-hydroxy-2-methylphenyl)-4,5-dihydro-3(2H)-pyridazinone | OC=1C(=C(C=CC1)C=1CCC(NN1)=O)C | C11H12N2O2
